US07816357B2
Preparation of 7,8-bis(4-chlorophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione
To the solution of 6-chloro-7,8-bis(4-chlorophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (0.48 g, 0.92 mmol) in THF (20 ml) was added potassium trimethylsilyloxide (TMSOK) (0.25 g, 1.95 mmol). The solution was heated to reflux. After 0.5 h, the solution was cooled to RT and 1N HCl solution was added until the reaction was acidic. The resulting solution was extracted with ethyl acetate. The combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography using an automated system to give the title compound, 7,8-bis(4-chlorophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione, (260 mg, 56%) as a yellow solid.

reactant | 6-chloro-7,8-bis(4-chlorophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.92 mmol, 0.48 g | ClC=1C(=C(C=2N(N1)C(N(N2)COCC[Si](C)(C)C)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C23H23Cl3N4O2Si
reactant | potassium trimethylsilyloxide | 1.95 mmol, 0.25 g | C[Si](C)(C)O[Si](C)(C)C.[K]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 7,8-bis(4-chlorophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione | 260 mg, 56% | ClC1=CC=C(C=C1)C1=C(C=2N(NC1=O)C(N(N2)COCC[Si](C)(C)C)=O)C2=CC=C(C=C2)Cl | C23H24Cl2N4O3Si
